US05378689
(2R, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2,N-dimethylhexanamide
Gaseous methylamine was introduced into a solution of 0.2 g (0.615 mole) of (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one (prepared as described in Preparation 2) in 6 ml of methanol for 3 minutes, after which the mixture was allowed to stand for 3 hours. The reaction mixture was then concentrated by distillation under reduced pressure, and the resulting residue was triturated with hexane to afford 0.23 g of the title compound as white crystals, melting at 144°-145° C.

reactant | methylamine | CN | CH5N
reactant | (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one | 0.615 mole, 0.2 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C18H31NO4
solvent | methanol | 6 ml | CO | CH4O
product | (2R, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2,N-dimethylhexanamide | 0.23 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NC)C)O)CC1CCCCC1 | C19H36N2O4
